US08084623B2
To a stirred solution of 2-butyl-2-{[3-chloro-4-(1,1,1,3,3,3-hexamethyl-disilazan-2-yl)-phenyl]-hydroxy-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester (0.357 g, 0.678 mmol) in DCM (10 mL) at ambient temperature under nitrogen was added DMP (0.575 g, 1.36 mmol) in a single portion. After one hour the reaction mixture was diluted with DCM, washed with 1 N NaOH and brine, then dried (MgSO4), filtered and concentrated in vacuo to a brown residue (0.290 g). Purification by chromatography (silica, 10% EtOAc in hexanes) gave 2-butyl-2-[3-chloro-4-(1,1,1,3,3,3-hexamethyl-disilazan-2-yl)-benzoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.208 g, 0.397 mmol, 58%) as a clear colourless residue.

reactant | 2-butyl-2-{[3-chloro-4-(1,1,1,3,3,3-hexamethyl-disilazan-2-yl)-phenyl]-hydroxy-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.678 mmol, 0.357 g | C(C)(C)(C)OC(=O)N1C(CCC1)(C(O)C1=CC(=C(C=C1)N([Si](C)(C)C)[Si](C)(C)C)Cl)CCCC | C26H47ClN2O3Si2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-butyl-2-[3-chloro-4-(1,1,1,3,3,3-hexamethyl-disilazan-2-yl)-benzoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.397 mmol, 0.208 g, 58% | C(C)(C)(C)OC(=O)N1C(CCC1)(C(C1=CC(=C(C=C1)N([Si](C)(C)C)[Si](C)(C)C)Cl)=O)CCCC | C26H45ClN2O3Si2
